US04123532
Tablets Containing 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-2-carboxylic acid, n-butyl ester
2.0 g (0.126 mole) of 3-diazo-oxindole is taken up in xylene (85 ml), treated with 1.2 equivalents of n-butyl propiolate (1.9 g) and refluxed under a stream of nitrogen for 17 hours in an oil bath. The light coral-colored precipitates that form are cooled and filtered off and washed with ether. Yield: 3.0 g, m.p. 190°-195°; 83.57% crude yield. The crude product is taken up in boiling absolute ethanol (250 ml), treated with activated carbon, filtered and concentrated down on a steam bath to a volume of ~75 ml. After cooling, tan-colored precipitates are filtered off and dried in a vacuum oven at room temperature for 4 hours. Yield: 2.2 g, m.p. 198°-200°.

reactant | 3-diazo-oxindole | 0.126 mole, 2.0 g | [N+](=[N-])=C1C(NC2=CC=CC=C12)=O | C8H5N3O
reactant | n-butyl propiolate | 1.9 g, 1.2 equivalents | C(C#C)(=O)OCCCC | C7H10O2
solvent | xylene | 85 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-2-carboxylic acid, n-butyl ester | O=C1NC=2C=CC=CC2C=2N1N=C(C2)C(=O)OCCCC | C15H15N3O3
